US08106043B2
N-(4-(2-(Dimethylamino)ethyl)-3,4-dihydro-2H-benzo[b][1,4]thiazin-7-yl)furan-2-carboximidamide dihydrochloride:
N-(4-(2-(Dimethylamino)ethyl)-3,4-dihydro-2H-benzo[b][1,4]thiazin-7-yl)furan-2-carboximidamide (0.166 g, 0.504 mmol) was dissolved in MeOH (2 mL). 1M HCl in ether (2.52 mL, 2.52 mmol) was added to the solution at room temperature, and the reaction was stirred for 5 minutes under argon atmosphere. The mixture was concentrated to give a light yellow solid (0.18 g, 93%). 1H NMR (DMSO-d6) δ 11.36 (s, 1H), 11.25 (brs, 1H), 9.68 (s, 1H), 8.69 (s, 1H), 8.23 (s, 1H), 7.91 (d, J=2.7 Hz, 1H), 7.07-6.96 (m, 3H), 6.90 (d, J=1.8 Hz, 1H), 3.82-3.77 (m, 2H), 3.67-3.63 (m, 2H), 3.25-3.22 (m, 2H), 3.12-3.09 (m, 2H), 2.80 (s, 3H), 2.78 (s, 3H); ESI-MS (m/z, %): 333, 331 (MH+, free base, 100), 260, 262 (57); HRMS calculated for C17H23N4OS (MH+, free base): calculated: 331.1587, observed: 331.1589; HPLC purity: 98% by area.

reactant | N-(4-(2-(Dimethylamino)ethyl)-3,4-dihydro-2H-benzo[b][1,4]thiazin-7-yl)furan-2-carboximidamide | 0.504 mmol, 0.166 g | CN(CCN1C2=C(SCC1)C=C(C=C2)NC(=N)C=2OC=CC2)C | C17H22N4OS
reactant | HCl | 1M | Cl | ClH
reactant | ether | 2.52 mmol, 2.52 mL | CCOCC | C4H10O
solvent | MeOH | 2 mL | CO | CH4O
product | N-(4-(2-(Dimethylamino)ethyl)-3,4-dihydro-2H-benzo[b][1,4]thiazin-7-yl)furan-2-carboximidamide dihydrochloride | 0.18 g, 93% | Cl.Cl.CN(CCN1C2=C(SCC1)C=C(C=C2)NC(=N)C=2OC=CC2)C | InChI=1S/C17H22N4OS.2ClH/c1-20(2)7-8-21-9-11-23-16-12-13(5-6-14(16)21)19-17(18)15-4-3-10-22-15;;/h3-6,10,12H,7-9,11H2,1-2H3,(H2,18,19);2*1H
